US07579359B2
The method of Part B of Example 25 was followed using O-(tert-butyl)hydroxylamine hydrochloride (2.0 g, 16 mmol) in lieu of O-methylhydroxylamine hydrochloride to treat N-(4-chloroquinolin-3-yl)acetamide (3.2 g, 14.5 mmol) with the modification that the reaction was heated at reflux for three hours. Following the work-up procedure, the resulting blue oil was purified by column chromatography on silica gel (eluting with 5% methanol in dichloromethane containing 5 mL of aqueous ammonium hydroxide per liter of eluent) to provide 1.92 g of 1-tert-butoxy-2-methyl-1H-imidazo[4,5-c]quinoline as a blue oil.

reactant | O-(tert-butyl)hydroxylamine hydrochloride | 16 mmol, 2.0 g | Cl.C(C)(C)(C)ON
reactant | O-methylhydroxylamine hydrochloride | Cl.CON
reactant | N-(4-chloroquinolin-3-yl)acetamide | 14.5 mmol, 3.2 g | ClC1=C(C=NC2=CC=CC=C12)NC(C)=O | C11H9ClN2O
product | 1-tert-butoxy-2-methyl-1H-imidazo[4,5-c]quinoline | 1.92 g | C(C)(C)(C)ON1C(=NC=2C=NC=3C=CC=CC3C21)C | C15H17N3O
